US09382237B2
Dissolved 7.00 g (2-cyano-3,3-bis(methylthio)acrylamide) in 125 mL of ethanol. Then added 4.348 mL (1.10 eq.) of 3-chloroaniline to the reaction vessel and stirred the reaction at 75° C. until starting amide was absent and confirmed by HPLC. Once complete (18 hrs), the reaction was brought to room temperature and filtered to obtain 3-((3-chlorophenyl)amino)-2-cyano-3-(methylthio)acrylamide as an off white to light yellow powder. Product was allowed to dry under vacuum for 1 hr (6.0 g, 57% yield).

reactant | 2-cyano-3,3-bis(methylthio)acrylamide | C(#N)C(C(=O)N)=C(SC)SC | C6H8N2OS2
reactant | 3-chloroaniline | 4.348 mL, 1.10 eq. | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 3-((3-chlorophenyl)amino)-2-cyano-3-(methylthio)acrylamide | 57% yield | ClC=1C=C(C=CC1)NC(=C(C(=O)N)C#N)SC | C11H10ClN3OS
